US07342039B2
To a solution of 4-nitro-anthranilic acid methyl ester (5.060 g, 25.8 mmol) in CH2Cl2 (200 mL) was added triethylamine (8 mL) and 4-tert-butyl benzoyl chloride and the reaction was stirred overnight at rt. It was then poured into brine, extracted with ethyl acetate, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate/hexanes (20/80) to afford 2-(4-tert-butyl-benzoylamino)-4-nitro-benzoic acid methyl ester (1.841 g, 86%) as a yellow solid. mp=146.0-148.4° C.; mass spectrum (−ES, M−H) m/z 355. 1H NMR (400 MHz, DMSO-d6); δ 11.60 (bs, 1H), 9.35 (d, 1H), 8.20 (d, 1H), 8.02 (dd, 1H), 7.90 (d, 2H), 7.64 (d, 2H), 3.95 (s, 3H), 1.36 (s, 9H). Elemental analysis: Calcd. for C19H20N2O5: C, 64.04; H, 5.66; N, 7.86. Found: C, 64.04; H, 5.79; N, 7.76.

reactant | 4-nitro-anthranilic acid methyl ester | 25.8 mmol, 5.060 g | COC(C=1C(N)=CC(=CC1)[N+](=O)[O-])=O | C8H8N2O4
reactant | triethylamine | 8 mL | C(C)N(CC)CC | C6H15N
reactant | 4-tert-butyl benzoyl chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 2-(4-tert-butyl-benzoylamino)-4-nitro-benzoic acid methyl ester | 1.841 g, 86% | COC(C1=C(C=C(C=C1)[N+](=O)[O-])NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C19H20N2O5
